US05532112
4-Allyloxyphenyl 2-hydroxy-2-propyl ketone (IIh)
6.6 g. (0.22 mol) of sodium hydride (80% strength in paraffin oil) are added in portions to 36.0 g (0.2 mol) of 4-hydroxyphenyl 2-hydroxy-2-propyl ketone in 450 ml. of dimethyl sulfoxide under an inert gas and the mixture is stirred for 15 minutes at room temperature. 26.8 g. (0.22mol) of allyl bromide in 40 ml. of dimethyl sulfoxide are then added dropwise at 30°-40° C., and the mixture is stirred for 15 minutes. The reaction mixture is poured into 2 l of water and then extracted with methyl t-butyl ether. By removing the solvent, 41.5 g. of compound IIh are obtained.

reactant | sodium hydride | 0.22 mol | [H-].[Na+]
reactant | 4-hydroxyphenyl 2-hydroxy-2-propyl ketone | 0.2 mol, 36.0 g | OC(C)(C)C(=O)C1=CC=C(C=C1)O | C10H12O3
reactant | dimethyl sulfoxide | CS(=O)C | C2H6OS
reactant | allyl bromide | 0.22mol | C(C=C)Br | C3H5Br
solvent | water | 2 l | O | H2O
product | 4-Allyloxyphenyl 2-hydroxy-2-propyl ketone | OC(C)(C)C(=O)C1=CC=C(C=C1)OCC=C | C13H16O3
